US08835488B2
A round bottom flask was equipped with a condenser, addition funnel and rubber septum with nitrogen inlet was charged with a solution of p-fluorophenylmagnesium bromide (2.0 M in diethyl ether, 1.99 ml, 3.97 mmol) and CuI (63 mg, 0.331 mmol) in 10 ml dry diethyl ether (10 ml). Methyl 2-cyano-2-(oxan-4-ylidene)acetate (600 mg, 3.31 mmol) in diethyl ether (10 ml) was added drop-wise over 30 min while cooling the reaction flask in an ice bath. The mixture was then stirred for 3 h. The reaction mixture was poured into a 50 g ice/1 N HCl (25 ml) mixture. The product was extracted with Et2O (3×50 ml), washed with brine (50 ml), dried (NA2SO4) and concentrated. Purified by normal phase SiO2 chromatography (7% to 60% EtOAc/hexanes) to give methyl 2-cyano-2-[4-(4-fluorophenyl)oxan-4-yl]acetate as a white solid (730 mg, 80%, m/z: 277.1 [M+Na]+ observed).

reactant | p-fluorophenylmagnesium bromide | 3.97 mmol, 2.0 M, 1.99 ml | FC1=CC=C(C=C1)[Mg]Br
reactant | Methyl 2-cyano-2-(oxan-4-ylidene)acetate | 3.31 mmol, 600 mg | C(#N)C(C(=O)OC)=C1CCOCC1 | C9H11NO3
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | CuI | 0.331 mmol, 63 mg | [Cu]I
product | methyl 2-cyano-2-[4-(4-fluorophenyl)oxan-4-yl]acetate | C(#N)C(C(=O)OC)C1(CCOCC1)C1=CC=C(C=C1)F | C15H16FNO3
